US07635715B2
Step B: Preparation of 2-(3-Chlorophenyl)-2-methylbutanenitrile
A solution of 2-(3-chlorophenyl)butanenitrile (4.69 g, 26 mmol) and MeI (2.0 mL, 31 mmol) in DMSO (15 mL) was added dropwise to a stirred solution of NaH (60% dispersion in mineral oil (1.3 g, 31 mmol)) in DMSO (35 mL) at 0° C. under a nitrogen atmosphere. The reaction mixture was stirred for 30 minutes at 0° C. and then brought to room temperature and stirred for 15 hours. The reaction mixture was quenched with water carefully and then diluted with EtOAc. The organic layer was separated, washed with water (2×) and brine, dried (MgSO4), and concentrated in vacuo to give the desired compound as a light yellow oil (5.54 g).

reactant | 2-(3-chlorophenyl)butanenitrile | 26 mmol, 4.69 g | ClC=1C=C(C=CC1)C(C#N)CC | C10H10ClN
reactant | MeI | 31 mmol, 2.0 mL | CI | CH3I
reactant | NaH | 31 mmol, 1.3 g | [H-].[Na+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
product | 2-(3-Chlorophenyl)-2-methylbutanenitrile | 5.54 g | ClC=1C=C(C=CC1)C(C#N)(CC)C | C11H12ClN
